US04699915
A solution of 3-(4-aminophenyl)-1-H-pyrazole (10 g) in formic acid (100 ml) was refluxed for 4 hours and evaporated to dryness. The residue was dissolved in water, and the solution was filtered through charcoal. The filtrate was made basic to give 9.5 g of N-[4-(pyrazol-3-yl)-phenyl]-formamide; M.p. 139°-141° C.

reactant | 3-(4-aminophenyl)-1-H-pyrazole | 10 g | NC1=CC=C(C=C1)C1=NNC=C1 | C9H9N3
reactant | formic acid | 100 ml | C(=O)O | CH2O2
product | N-[4-(pyrazol-3-yl)-phenyl]-formamide | 9.5 g | N1N=C(C=C1)C1=CC=C(C=C1)NC=O | C10H9N3O
